US04931560
Preparation of 2-anilino-4-hydroxymethyl- 6-cyclopropylpyrimidine
5.9 g (23 mmol) of 2-anilino-4-methoxymethyl-6-cyclopropylpyrimidine, prepared from phenylguanidine and 1-cyclopropyl-4-methoxy-1,3-butanedione, are dissolved in 200 ml of dichloromethane and the solution is cooled to -68° C. 6.8 g (27 mmol) of boron tribromide are slowly added dropwise to the salmon-coloured solution within a period of half an hour, with vigorous stirring, and the cooling bath is then removed and stirring is continued for a further 2 hours at room temperature. After the addition of 150 g of ice-water, the precipitated crude product is filtered off and recrystallised from methanol using active carbon. The light-yellow crystals melt at 124°-126° C. Yield: 4.7 g (19.5 mmol; 84.7% of the theoretical yield).

reactant | 2-anilino-4-methoxymethyl-6-cyclopropylpyrimidine | 23 mmol, 5.9 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)COC)C1CC1 | C15H17N3O
reactant | phenylguanidine | C=1C=CC(=CC1)NC(=N)N | C7H9N3
reactant | 1-cyclopropyl-4-methoxy-1,3-butanedione | C1(CC1)C(CC(COC)=O)=O | C8H12O3
reactant | boron tribromide | 27 mmol, 6.8 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-anilino-4-hydroxymethyl- 6-cyclopropylpyrimidine | N(C1=CC=CC=C1)C1=NC(=CC(=N1)CO)C1CC1 | C14H15N3O
